US05688809
1-(3-Cyclohexylindol-5-yl)-5-methylbenzimidazole
A mixture of 1-(3-(cyclohexen-1-yl)indol-5-yl)-5-methylbenzimidazole (0.110 g, 0.34 mmol), 10% Pd on carbon (0.027 g), and absolute ethanol (2 mL) was shaken under an atmosphere of hydrogen (3 atm) for 72 hours. The resulting reaction mixture was filtered through Celite®, and the filtrate was evaporated under reduced pressure to afford the title compound (0.090 g, 80%) as a dark brown foam. Mp, decomposes 120° C.; 1H NMR (DMSO-d6) d 11.5 (br s, NH), 8.41 (s, 1H), 7.73 (s, 1H), 7.56-7.52 (m, 2H), 7.39 (d, J=8.4 Hz, 1H), 7.27-7.24 (m, 2H), 7.13 (d, J=8.0 Hz, 1H), 2.88-2.75 (m, 1H), 2.45 (s, 3H), 2.10-1.60 (m, 10 H); IR (KBr) 2924, 2851, 1612, 1580, 1492, 1447 cm-1 ; FAB LRMS (m/z, relative intensity) 331 (25), 330 ([MH]+, 100). HRMS calculated for C22 H23N3 : 329.1887. Found: 329.1874.

reactant | 1-(3-(cyclohexen-1-yl)indol-5-yl)-5-methylbenzimidazole | 0.34 mmol, 0.110 g | C1(=CCCCC1)C1=CNC2=CC=C(C=C12)N1C=NC2=C1C=CC(=C2)C | C22H21N3
catalyst | Pd on carbon | 0.027 g | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(3-Cyclohexylindol-5-yl)-5-methylbenzimidazole | 0.090 g, 80% | C1(CCCCC1)C1=CNC2=CC=C(C=C12)N1C=NC2=C1C=CC(=C2)C | C22H23N3
